US09023846B2
3-tert-Butyl-4-cyano-4,5-dihydro-isoxazole-5-carboxylic acid ethyl ester (1.51 g, 2.56 mmol corrected for the measured purity, prepared as described in the previous step) was dissolved in toluene (10 mL) and DDQ (2.41 g, 10.6 mmol) was added as a solid. The resulting mixture was heated to 110° C. for 16 h and then cooled to room temperature and diluted with hexanes (2 mL). The resulting suspension was filtered and the precipitate was washed once with toluene (4 mL). The filtrates were combined and concentrated under reduced pressure. The resulting residue was chromatographed on a 24-g SiO2 pre-packed column eluting with 0:1-1:4 EtOAc-hexanes to yield 3-tert-butyl-4-cyano-isoxazole-5-carboxylic acid ethyl ester. 1H-NMR (400 MHz, CDCl3) δ: 4.52 (q, J=7.1 Hz, 2H), 1.49 (s, 9H), 1.43-1.48 (t, J=7.1 Hz, 3H).

reactant | 3-tert-Butyl-4-cyano-4,5-dihydro-isoxazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1C(C(=NO1)C(C)(C)C)C#N | C11H16N2O3
reactant | DDQ | 10.6 mmol, 2.41 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-tert-butyl-4-cyano-isoxazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C(=NO1)C(C)(C)C)C#N | C11H14N2O3
